US05356897
To a suspension of 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (100 mg) in methanol (2 ml) was added 10% methanolic hydrogen chloride (0.5 ml). The resulting clear solution was concentrated in vacuo. To the residue was added ethanol (3 ml) and the solution was concentrated in vacuo. The residue was crystallized from a mixture of ethanol and diethyl ether to give 2-(4-fluorophenyl)-3-(pyridin-4-yl)4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine dihydrochloride (100 mg).

reactant | 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 100 mg | FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1 | C17H15FN4
reactant | hydrogen chloride | 0.5 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 2-(4-fluorophenyl)-3-(pyridin-4-yl)4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine dihydrochloride | 100 mg | Cl.Cl.FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1 | InChI=1S/C17H15FN4.2ClH/c18-14-4-2-13(3-5-14)16-15(12-6-9-19-10-7-12)17-20-8-1-11-22(17)21-16;;/h2-7,9-10,20H,1,8,11H2;2*1H
